US05308857
Benzoyl chloride (2.67 ml) was dropped to a refluxing solution of ammonium thiocyanate (1.92 g) in acetone (50 ml) and the mixture was refluxed for 15 minutes. 4-(5-Acetylaminomethylfuran-2-yl)-2-aminothiazole (5.20 g) was added portionwise to the refluxing mixture. After the mixture was refluxed for further two hours, the solvent was evaporated in vacuo and the residue was mixed with water and ethyl acetate. The resulting precipitate was collected by filtration and washed with ethyl acetate to afford 4-(5-acetylaminomethylfuran-2-yl)-2-(3-benzoylthioureido)thiazole (5.50 g).

reactant | Benzoyl chloride | 2.67 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 1.92 g | [S-]C#N.[NH4+]
reactant | 4-(5-Acetylaminomethylfuran-2-yl)-2-aminothiazole | 5.20 g | C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)N | C10H11N3O2S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(5-acetylaminomethylfuran-2-yl)-2-(3-benzoylthioureido)thiazole | 5.50 g | C(C)(=O)NCC1=CC=C(O1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C18H16N4O3S2
